US07488832B2
Step 2: 1-Phenyl-4-(4-piperidin-1-yl-phenyl)-butane-1,4-dione
1-(4-Fluoro-phenyl)-4-phenyl-butane-1,4-dione (390 mmol, 100 mg) and piperdine (3.9 mmol, 0.34 mL) are dissolved in DMSO (100 uL) in a vial. The vial is capped and allowed to heat/shake at 110° overnight. After which time, the reaction is checked by HPLC. After the reaction cooled to room temperature, 500 uL of water is added. The product precipitates and is filtered. 74 mg is collected and confirmed by LCMS.

reactant | 1-(4-Fluoro-phenyl)-4-phenyl-butane-1,4-dione | 390 mmol, 100 mg | FC1=CC=C(C=C1)C(CCC(=O)C1=CC=CC=C1)=O | C16H13FO2
reactant | piperdine | 3.9 mmol, 0.34 mL | N1CCCCC1 | C5H11N
reactant | water | 500 uL | O | H2O
solvent | DMSO | 100 uL | CS(=O)C | C2H6OS
product | 1-Phenyl-4-(4-piperidin-1-yl-phenyl)-butane-1,4-dione | C1(=CC=CC=C1)C(CCC(=O)C1=CC=C(C=C1)N1CCCCC1)=O | C21H23NO2
